US03981886
2-Amino-5-(2-bromophenyl)-1,3-bis[(2-trifluoromethylphenylthio)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5-(2-bromophenyl)benzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2-trifluoromethylphenyl chloromethyl sulfide, the title compound is obtained.

reactant | 2-amino-5-(2-bromophenyl)benzimidazole | NC=1NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)Br | C13H10BrN3
reactant | 2-trifluoromethylphenyl chloromethyl sulfide | ClCSC1=C(C=CC=C1)C(F)(F)F | C8H6ClF3S
product | 2-Amino-5-(2-bromophenyl)-1,3-bis[(2-trifluoromethylphenylthio)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1CSC1=C(C=CC=C1)C(F)(F)F)C=CC(=C2)C2=C(C=CC=C2)Br)CSC2=C(C=CC=C2)C(F)(F)F | InChI=1S/C29H20BrF6N3S2.ClH/c30-22-10-4-1-7-19(22)18-13-14-23-24(15-18)39(17-41-26-12-6-3-9-21(26)29(34,35)36)27(37)38(23)16-40-25-11-5-2-8-20(25)28(31,32)33;/h1-15,37H,16-17H2;1H
